US04954503
To a solution of 2-bromobenzoic acid hydrazide (132 g) in pyridine (1.21), cooled to about 10° C. with an ice bath, was added benzenesulfonyl chloride (78.3 ml). After complete addition, the reaction was stirred at ambient temperature for 4 hours, and then poured into ice-HCl to precipitate a solid (135 g). The solid was recrystallized from isopropanol to yield 125 g of 2-bromobenzoic acid 2-phenylsulfonylhydrazide, m.p. 154°-156° C.

reactant | 2-bromobenzoic acid hydrazide | 132 g | BrC1=C(C(=O)NN)C=CC=C1 | C7H7BrN2O
reactant | benzenesulfonyl chloride | 78.3 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-bromobenzoic acid 2-phenylsulfonylhydrazide | 125 g | C1(=CC=CC=C1)S(=O)(=O)NNC(C1=C(C=CC=C1)Br)=O | C13H11BrN2O3S
